US04622318
To a suspension of [(Z and E)-2-(2-pyridyl)vinylthio]silver (1.9 g) in acetonitrile (80 ml) was added sodium iodide (6.9 g) at ambient temperature. The mixture was stirred for 30 minutes at the same temperature. To this mixture was added a solution of benzhydryl 7-[2-(5-amino-1,2,4-thiadiazol-3-yl)-2-allyloxyiminoacetamido]-3-chloromethyl-3-cephem-4-carboxylate (syn isomer) (2.88 g) in acetonitrile (30 ml) under ice-cooling. The mixture was stirred for 1 hour at the same temperature. The insoluble material was filtered off. The filtrate was concentrated in vacuo to give a residue. The residue was dissolved in a mixture of ethyl acetate and a saturated aqueous solution of sodium chloride, and the mixture was stirred for 1 hour at ambient temperature. Sellaite was added to the mixture and the insoluble material was filtered off. The separated organic layer was dried over sodium sulfate and concentrated in vacuo. The residue was subjected to a column chromatography on silica gel (175 g) and eluted with a mixture of ethyl acetate and n-hexane (3:1, V/V). The fraction containing the material having a larger Rf value in thin layer chromatography was combined and concentrated in vacuo to give benzhydryl 7-[2-(5-amino-1,2,4-thiadiazol-3-yl)-2-allyloxyiminoacetamido]-3-[(Z)-2-(2-pyridyl)vinylthiomethyl]-3-cephem-4-carboxylate (syn isomer) (1.58 g).

reactant | sodium iodide | 6.9 g | [I-].[Na+]
reactant | benzhydryl 7-[2-(5-amino-1,2,4-thiadiazol-3-yl)-2-allyloxyiminoacetamido]-3-chloromethyl-3-cephem-4-carboxylate | 2.88 g | NC1=NC(=NS1)C(C(=O)NC1[C@@H]2N(C(=C(CS2)CCl)C(=O)OC(C2=CC=CC=C2)C2=CC=CC=C2)C1=O)=NOCC=C | C28H25ClN6O5S2
reactant | sodium chloride | [Cl-].[Na+]
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | acetonitrile | 80 ml | C(C)#N | C2H3N
solvent | acetonitrile | 30 ml | C(C)#N | C2H3N
catalyst | silver | 1.9 g | [Ag] | Ag
product | benzhydryl 7-[2-(5-amino-1,2,4-thiadiazol-3-yl)-2-allyloxyiminoacetamido]-3-[(Z)-2-(2-pyridyl)vinylthiomethyl]-3-cephem-4-carboxylate | 1.58 g | NC1=NC(=NS1)C(C(=O)NC1[C@@H]2N(C(=C(CS2)CS\C=C/C2=NC=CC=C2)C(=O)OC(C2=CC=CC=C2)C2=CC=CC=C2)C1=O)=NOCC=C | C35H31N7O5S3
